US06348474B1
Methyl 3-(4-(N-benzoylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
To a solution of methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (300 mg) in dichloromethane (3 ml) was added triethylamine (110 mg). Benzoyl chloride (134 mg) was added under ice-cooling and the mixture was stirred at room temperature for 12 hr. Water was added to the reaction mixture and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Hexane was added to the residue for crystallization, and the crystals were collected by filtration and dried under reduced pressure to give the objective compound (317 mg) as colorless crystals.

reactant | methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 300 mg | NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C16H15ClN4O2
reactant | triethylamine | 110 mg | C(C)N(CC)CC | C6H15N
reactant | Benzoyl chloride | 134 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Water | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Methyl 3-(4-(N-benzoylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 317 mg | C(C1=CC=CC=C1)(=O)NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C23H19ClN4O3
